US08383827B2
Step 2: Synthesis of 4-(5-Amino-pyridin-3-yl)-2-chloro-benzonitrile
(General Suzuki reaction procedure 1) A mixture of 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile (1.32 g, 5 mmol), 5-Bromo-pyridin-3-ylamine (865 mg, 5 mmol), s-PHOS (103 mg, 0.25 mmol), potassium phosphate (2.12 g, 10 mmol) and Pd2(dba)3 (41.2 mg, 0.1 mmol) in toluene (20 mL) was heated to 95° C. overnight (18 h). After filtration and concentration, the residue was dissolved into CH2Cl2 and mixed with celite. After concentration, the residue was loaded to column (MeOH—CH2Cl2, v/v, 1%-3.5%) and resulted in a light brown solid (500 mg). 1HNMR (400 MHz, CDCl3): δ 4.82 (brs, 2H), 7.11 (t, J=2 Hz, 1H), 7.55 (dd, J=2 Hz, 8 Hz, 1H), 7.69 (d, J=2 Hz, 1H), 7.75 (d, J=8 Hz, 1H), 8.16 (d, J=2 Hz, 1H), 8.22 (d, J=2 Hz, 1H).

reactant | 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile | 5 mmol, 1.32 g | ClC1=C(C#N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H15BClNO2
reactant | 5-Bromo-pyridin-3-ylamine | 5 mmol, 865 mg | BrC=1C=C(C=NC1)N | C5H5BrN2
reactant | s-PHOS | 0.25 mmol, 103 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | potassium phosphate | 10 mmol, 2.12 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.1 mmol, 41.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(5-Amino-pyridin-3-yl)-2-chloro-benzonitrile | 500 mg | NC=1C=C(C=NC1)C1=CC(=C(C#N)C=C1)Cl | C12H8ClN3
